US04808589
Methyl 3-(4-dimethylaminomethyl-2-pyridylmethylthio)propionimidate (8.68 g), ammonium chloride (1.74 g) and ethanol (60 ml) were stirred at room temperature for 4 hours. Ethanol was evaporated at reduced pressure and the residue chromatographed using silica gel and a chloroform-methanol gradient elution. Fractions containing the required product (as shown by TLC) were combined and solvent evaporated at reduced pressure to give 3-(4-dimethylaminomethyl-2-pyridylmethylthio)propionamidine hydrochloride (2.30 g).

reactant | Methyl 3-(4-dimethylaminomethyl-2-pyridylmethylthio)propionimidate | 8.68 g | CN(C)CC1=CC(=NC=C1)CSCCC(OC)=N | C13H21N3OS
reactant | ammonium chloride | 1.74 g | [Cl-].[NH4+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 3-(4-dimethylaminomethyl-2-pyridylmethylthio)propionamidine hydrochloride | 2.30 g | Cl.CN(C)CC1=CC(=NC=C1)CSCCC(=N)N | InChI=1S/C12H20N4S.ClH/c1-16(2)8-10-3-5-15-11(7-10)9-17-6-4-12(13)14;/h3,5,7H,4,6,8-9H2,1-2H3,(H3,13,14);1H
